US07790728B2
N-[6-(5-methyl-2-furyl)-5-pyridin-4-ylpyrazin-2-yl]cyclopropanecarboxamide
To a stirred solution of 6-(5-methylfuran-2-yl)-5-phenylpyrazin-2-ylamine (42 mg, 0.166 mmol) in pyridine (1.8 mL) was added cyclopropanecarbonyl chloride (38 μL, 0.41 mmol). The solution was stirred at 70° C. for 6 h, evaporated, partitioned between dichloromethane and a 4% sodium bicarbonate aqueous solution, the aqueous phase extracted twice with dichloromethane, the organic layers washed with brine, dried (MgSO4) and evaporated. The residue was triturated with diethyl ether and methanol and the precipitate was collected by filtration and dried to furnish the title compound as a brown solid (43 mg, 81%).

reactant | 6-(5-methylfuran-2-yl)-5-phenylpyrazin-2-ylamine | 0.166 mmol, 42 mg | CC1=CC=C(O1)C1=C(N=CC(=N1)N)C1=CC=CC=C1 | C15H13N3O
reactant | cyclopropanecarbonyl chloride | 0.41 mmol, 38 μL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | pyridine | 1.8 mL | N1=CC=CC=C1 | C5H5N
product | N-[6-(5-methyl-2-furyl)-5-pyridin-4-ylpyrazin-2-yl]cyclopropanecarboxamide | 43 mg, 81% | CC1=CC=C(O1)C1=C(N=CC(=N1)NC(=O)C1CC1)C1=CC=NC=C1 | C18H16N4O2
